US06359134B1
A solution of 1-(ethenesulfonyl)piperazine (1.38 g), salicylaldehyde (610 mg) and potassium tert-butoxide (168 mg) in tert-butanol (20 ml) was refluxed for 4 days. The reaction solution was concentrated, and to the residue was added ethyl acetate. The organic layer was washed with water and brine, dried, concentrated and purified with silica gel column chromatography (hexane/ethyl acetate=2/1) to give a colorless solid of 1-(2H-benzopyrane-3-sulfonyl)-4-(tert-butoxycarbonyl)piperazine (420 mg).

reactant | 1-(ethenesulfonyl)piperazine | 1.38 g | C(=C)S(=O)(=O)N1CCNCC1 | C6H12N2O2S
reactant | salicylaldehyde | 610 mg | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | potassium tert-butoxide | 168 mg | CC(C)([O-])C.[K+]
reactant | tert-butanol | 20 ml | C(C)(C)(C)O | C4H10O
product | 1-(2H-benzopyrane-3-sulfonyl)-4-(tert-butoxycarbonyl)piperazine | 420 mg | O1CC(=CC2=C1C=CC=C2)S(=O)(=O)N2CCN(CC2)C(=O)OC(C)(C)C | C18H24N2O5S
